US07737136B2
10 mg Pd/C 10% was added to a solution of trans-N-(7-chloro-2,3,4,14b-tetrahydro-1H-dibenzo[b,f]pyrido[1,2-d][1,4]oxazepin-1-yl)-2,2,2-trifluoroacetamide (100 mg, 0.25 mmol) in 5 mL of DMF. The suspension was shaken under H2 atmosphere for 2 days. The mixture was filtered, poured into water and extracted with diethyl ether. The organic layer was washed with water, dried (Na2SO4) and evaporated to give trans-N-(2,3,4,14b-tetrahydro-1H-dibenzo[b,f]pyrido[1,2-d][1,4]oxazepin-1-yl)-2,2,2-trifluoroacetamide (89 mg, 98%). Data: 1H-NMR (400 MHz, CDCl3) 1.85 (m, 3H), 2.99 (m, 1H), 3.18 (m, 1H), 3.75 (m, 1H), 4.50 (d, J=8,1H), 4.72 (m, 1H), 6.62 (br, 1H), 6.84-7.30 (8 arH). (m/z)=362 (M+H)+.

reactant | trans-N-(7-chloro-2,3,4,14b-tetrahydro-1H-dibenzo[b,f]pyrido[1,2-d][1,4]oxazepin-1-yl)-2,2,2-trifluoroacetamide | 0.25 mmol, 100 mg | ClC1=CC2=C(OC3=C([C@H]4N2CCC[C@H]4NC(C(F)(F)F)=O)C=CC=C3)C=C1 | C19H16ClF3N2O2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | Pd/C | 10 mg | [Pd] | Pd
product | trans-N-(2,3,4,14b-tetrahydro-1H-dibenzo[b,f]pyrido[1,2-d][1,4]oxazepin-1-yl)-2,2,2-trifluoroacetamide | 89 mg, 98% | [C@H]1(CCCN2C3=C(OC4=C([C@@H]21)C=CC=C4)C=CC=C3)NC(C(F)(F)F)=O | C19H17F3N2O2
